US06391874B1
(4-(3-Fluoro-benzyloxy)-phenyl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazolinyl)-amine hydrochloride
The title compound was prepared according to Procedure A from 4-(3-fluoro-benzyloxy)aniline and 4-chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazoline; δH [2H6]DMSO 11.71(1H,bs), 9.40(1H,s), 8.90(1H,s), 8.58(1H,d), 8.09(1H,d), 7.66(2H,d), 7.47(1H,m), 7.33(2H,m), 7.15(3H,m), 5.21(2H,s), 2.65(3H,s); m/z (M+1+) 428.

reactant | 4-(3-fluoro-benzyloxy)aniline | FC=1C=C(COC2=CC=C(N)C=C2)C=CC1 | C13H12FNO
reactant | 4-chloro-6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazoline | ClC1=NC=NC2=CC=C(C=C12)C=1OC(=NN1)C | C11H7ClN4O
product | (4-(3-Fluoro-benzyloxy)-phenyl)-(6-(5-methyl-1,3,4-oxadiazol-2-yl)-quinazolinyl)-amine hydrochloride | Cl.FC=1C=C(COC2=CC=C(C=C2)NC2=NC3=CC=C(C=C3C=N2)C=2OC(=NN2)C)C=CC1 | InChI=1S/C24H18FN5O2.ClH/c1-15-29-30-23(32-15)17-5-10-22-18(12-17)13-26-24(28-22)27-20-6-8-21(9-7-20)31-14-16-3-2-4-19(25)11-16;/h2-13H,14H2,1H3,(H,26,27,28);1H
